US04072756
5-[4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)piperidino]-2-pentanone
A solution of 10 g of 5-bromo-2-pentanone in 40 cc of chloroform is added dropwise within 10 minutes to a mixture of 14.7 g of 4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)piperidine and 12.7 g of potassium carbonate in 200 cc of chloroform, and the mixture is heated at reflux for 18 hours. After cooling, filtration is effected, the filtrate is washed with water, dried over magnesium sulphate, and the solvent is completely removed by distillation. The oily residue is then chromatographed on 200 g of silica gel with a mixture of chloroform/ethanol 9:1, and the so purified title compound is converted into the hydrogen fumarate form. M.P. 215°-218° from ethanol.

reactant | 5-bromo-2-pentanone | 10 g | BrCCCC(C)=O | C5H9BrO
reactant | 4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)piperidine | 14.7 g | C1=CC=CC=2SCC3=C(C(C21)=C2CCNCC2)C=CC=C3 | C19H19NS
reactant | potassium carbonate | 12.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 40 cc | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 cc | C(Cl)(Cl)Cl | CHCl3
product | 5-[4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)piperidino]-2-pentanone | C1=CC=CC=2SCC3=C(C(C21)=C2CCN(CC2)CCCC(C)=O)C=CC=C3 | C24H27NOS
